US04115568
(r) 9,10-Dihydro-4H-thieno[3,2-b][1,5]benzodiazepin-10-one
Methyl 3-(2-aminoanilino)-thiophene-2-carboxylate, m.p. 226° C. (CCl4).

reactant | Methyl 3-(2-aminoanilino)-thiophene-2-carboxylate | NC1=C(NC2=C(SC=C2)C(=O)OC)C=CC=C1 | C12H12N2O2S
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9,10-Dihydro-4H-thieno[3,2-b][1,5]benzodiazepin-10-one | S1C=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
